US08754073B2
12.3 ethyl 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-6-carboxylate (V-2)
5 g ethyl 3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-6-carboxylate and 2.3 g palladium hydroxide are suspended in 180 ml of methanol and hydrogenated at 50 psi for 2 hours at ambient temperature. The catalyst is suction filtered and the mother liquor is evaporated to dryness. 3.6 g (V-2) are obtained as a solid.

reactant | ethyl 3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-6-carboxylate | 5 g | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CNC2=CC(=CC=C12)C(=O)OCC | C23H24N2O2
solvent | methanol | 180 ml | CO | CH4O
catalyst | palladium hydroxide | 2.3 g | [OH-].[Pd+2].[OH-]
product | ethyl 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-6-carboxylate | N1CCC(=CC1)C1=CNC2=CC(=CC=C12)C(=O)OCC | C16H18N2O2
